US04014915
A suspension of 1-tert-butoxycarbonyloxy-6-chloro-1H-benzotriazole (2.7 g.), L-isoleucine (1.3 g) and triethylamine (3.5 ml.) in a mixture of water (8 ml.) and tert-butyl alcohol (12 ml.) was stirred for 2 hours at 60° to 62° C. tert-Butyl alcohol was distilled off from the reaction mixture under reduced pressure and water (15 ml.) was added to the residue. The mixture was adjusted to pH 3 with a citric acid aqueous solution under ice-cooling and extracted with ethyl acetate. The extract was then washed with water and a saturated sodium chloride aqueous solution. The thus formed precipitates were filtered off and then the filtrate was dried over magnesium sulfate. The solution was concentrated and a mixture of ether and petroleum ether (1:1) was added to the residue. An insoluble material was filtered off and the filtrate was concentrated under reduced pressure to give N-tert-butoxycarbonyl-L-isoleucine (2.4 g.), oil.

reactant | 1-tert-butoxycarbonyloxy-6-chloro-1H-benzotriazole | 2.7 g | C(C)(C)(C)OC(=O)ON1N=NC2=C1C=C(C=C2)Cl | C11H12ClN3O3
reactant | L-isoleucine | 1.3 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | water | 8 ml | O | H2O
solvent | tert-butyl alcohol | 12 ml | C(C)(C)(C)O | C4H10O
product | N-tert-butoxycarbonyl-L-isoleucine | 2.4 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
